US03989728
2-Tetrahydropyranyl propylene glycol (16.0 grams, 0.1 mole) is interesterified with 39 grams methyl behenate using 4 ml. of 40% trimethyl benzyl ammonium methoxide as a catalyst. The reactants are stirred in a 250 ml. flask heated at 60-80° C. under a reduced pressure of 200 mm. Hg for 6 hours. The reactants are poured into 600 ml. of hexane and the hexane solution washed with 400 ml. of 1% potassium bicarbonate solution. The washed hexane layer is diluted with 200 ml. ethanol and 75 grams urea are added to the sample, Adduct formation with urea is accomplished by stirring the sample initially at 40° C. and allowing the mixture to cool at 25° C. during a 2 hour interval. The urea adduct is removed by filtration and discarded. The adduction with urea is repeated using 60 grams urea. The filtrate from the second urea adduction is water-washed three times and the hexane layer is evaporated to dryness. The residue is dissolved in 300 ml. hexane and the solution is crystallized at -18° C. Filtration at -18° C yields 21.3 grams of 1-behenoyl-2-tetrahydropyranyl propylene glycol. 1-Behenoyl-2-tetrahydropyranyl propylene glycol (8 grams, 0.0l65 mole) is cleaved by reaction with 11 ml. of 1.6 molar boric acid in trimethyl borate. The reactants are heated in a boiling water bath with application of vacuum. Heating is continued for 15 minutes with a vacuum of 2-5 mm. Hg pressure during the final 10 minutes. The residue is cooled to room temperature and dissolved in 200 ml. ethyl ether and water-washed three times. The ether phase is dried with sodium sulfate, and evaporated to dryness on an evaporator without warming above 30° C. The residue is dissolved in 100 ml. petroleum ether and crystallized at 70° F. The crystals recovered at 70° F. are recrystallized from 200 ml. petroleum ether at 50° F. to yield ca. 5 grams of 1-propylene glycol monobehenate.

reactant | 2-Tetrahydropyranyl propylene glycol | 0.1 mole, 16.0 grams | O1C(CCCC1)C(CO)(C)O | C8H16O3
reactant | methyl behenate | 4 ml, 39 grams | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC | C23H46O2
catalyst | trimethyl benzyl ammonium methoxide | C[O-].C[N+](CC1=CC=CC=C1)(C)C
product | 1-behenoyl-2-tetrahydropyranyl propylene glycol | 21.3 grams | C(CCCCCCCCCCCCCCCCCCCCC)(=O)C(C(C)(C1OCCCC1)O)O | C30H58O4
